US05112407
A liquefied starch solution having a DE (Dextrose Equivalent) of about 0.5 was prepared by adding to a suspension of 1 part by weight of potato starch in 10 parts by weight of water a commercial bacterial liquefying alpha-amylase (EC 3.2.1.1), heating the mixture to 90° C. to effect gelatinization, and further heating it quickly to 130° C. to suspend enzymatic reaction. To the solution was added 100 units/g starch of isoamylase (EC 3.2.1.68) prepared from a culture of Pseudomonas amyloderamosa ATCC 21262, and 50 units/g starch of "#1500", a beta-amylase (EC 3.2.1.2) derived from soybean, commercialized by Nagase & Company, Ltd., Osaka, Japan, and the resultant mixture was saccharified at pH 5.0 for 40 hours to obtain a high-purity maltose having a maltose content of 92.5% DS. The high-purity maltose was then purified by carbon decolorization and resin refining, and concentrated in vacuo to obtain a high-concentration syrup having a moisture content of 6.5 w/w %. The syrup was then placed in a kneader, and added with 1% DS crystalline alpha-maltose and 1% DS crystalline beta-maltose hydrate while keeping at 95° C. The resultant mixture was then kneaded for 3 minutes at this temperature, extruded in sheet shape, aged at 80° C. for 3 hours, further aged at 40° C. for 48 hours, and pulverized to obtain a maltose powder containing crystalline beta-maltose hydrate, moisture content of about 6.0 w/w %, in the yield of about 94% DS against the starting starch.

reactant | Dextrose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | water | O | H2O
product | maltose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O)O | C12H22O11
